US04011230
A solution of dimethylammonium dimethyldithiocarbamate (16.6 grams, 0.10 mole), carbon disulfide (7.6 grams, 0.10 mole), benzaldehyde (21.2 grams, 0.20 mole), and nitromethane (9.2 grams, 0.15 mole) in 95% ethanol (50 ml.) was allowed to stand at 23° C. for several days. The resulting precipitate was filtered off, washed with cold 95% ethanol, and dried in air. The solid product, which melted at 101° C.- 102° C., was recrystallized from 2-propanol to give α-(nitromethyl)benzyl dimethyldithiocarbamate melting at 105° C.-106° C. The structure was determined from infrared and nuclear magnetic resonance spectra and elemental analysis.

reactant | dimethylammonium dimethyldithiocarbamate | 0.10 mole, 16.6 grams | CN(C([S-])=S)C.C[NH2+]C
reactant | carbon disulfide | 0.10 mole, 7.6 grams | C(=S)=S | CS2
reactant | benzaldehyde | 0.20 mole, 21.2 grams | C(C1=CC=CC=C1)=O | C7H6O
reactant | nitromethane | 0.15 mole, 9.2 grams | [N+](=O)([O-])C | CH3NO2
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | α-(nitromethyl)benzyl dimethyldithiocarbamate | CN(C(SC(C1=CC=CC=C1)C[N+](=O)[O-])=S)C | C11H14N2O2S2
